US08609669B2
4-tert-butyl-1H-pyrazole-3,5-diamine
A mixture of tert-butylmalononitrile (5.01 g, 41.0 mmol) and hydrazine monohydrate (10.0 mL, 205 mmol) in 1-butanol (40 mL) was heated to reflux and stirred overnight (19 hours). The mixture was cooled to ambient temperature. Concentration afforded 6.33 g (100%) of the title compound. MS (DCI) m/z 155 (M+H)+.

reactant | tert-butylmalononitrile | 41.0 mmol, 5.01 g | C(C)(C)(C)C(C#N)C#N | C7H10N2
reactant | hydrazine monohydrate | 205 mmol, 10.0 mL | O.NN
solvent | 1-butanol | 40 mL | C(CCC)O | C4H10O
product | 4-tert-butyl-1H-pyrazole-3,5-diamine | 6.33 g, 100% | C(C)(C)(C)C=1C(=NNC1N)N | C7H14N4
